US07414076B2
Step 2: 3-azido-1-propanesulfonyl chloride
3-Azidopropanesulfonic acid, sodium salt 5 (1.87 g, 10.0 mmol) was suspended in dry benzene (20 mL), and PCl5 (2.3 g, 10.5 mmol) was added to the suspension. The mixture was stirred at room temperature for 30 minutes, then at gentle reflux for about 1 hour. The benzene and P(O)C13 were removed by evaporation under reduced pressure. Benzene was added to the crude mixture and the solvent was removed again under reduced pressure. The residue was dried in vacuo. The dried residue was dissolved in dichloromethane (anhydrous, 15 mL) and cooled at −10° C. using an ice/acetone bath.

reactant | 3-Azidopropanesulfonic acid | N(=[N+]=[N-])CCCS(=O)(=O)O | C3H7N3O3S
reactant | sodium | [Na] | Na
reactant | PCl5 | 10.5 mmol, 2.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 3-azido-1-propanesulfonyl chloride | N(=[N+]=[N-])CCCS(=O)(=O)Cl | C3H6ClN3O2S
